US04304790
A. 1-benzhydryl-2-methylazetidine
Combine benzhydrylamine (27.5 g=0.15 ml), 1,3-dibromobutane (40.5 g=0.19 mol) and sodium carbonate (28 g=0.33 mol) in 250 ml acetonitrile. Reflux 24 hours, allow to cool, filter and concentrate. Dissolve the residue in ether and wash with 1% sodium carbonate solution. Dry, concentrate and distill to obtain the product, boiling point 110°-115° C./0.1 mm pressure.

reactant | benzhydrylamine | 0.15 ml, 27.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | 1,3-dibromobutane | 0.19 mol, 40.5 g | BrCCC(C)Br | C4H8Br2
reactant | sodium carbonate | 0.33 mol, 28 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-benzhydryl-2-methylazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C | C17H19N
